US06225311B1
In the same manner as described in Step 2 of Example 215, ethyl 4-[(4-fluoroanilino)carbonyl]-2-piperazinecarboxylate (0.41 g, 1.4 mmol) and 4-but-2-ynyloxy-benzenesulfonyl chloride provided 0.49 g (70%) of ethyl 1-{[4-(2-butynyloxy)phenyl]sulfonyl}-4-[(4fluoroanilino)carbonyl]-2-piperazinecarboxylate as a white powder. Electrospray Mass Spec 504.4 (M+H)+.

reactant | ethyl 4-[(4-fluoroanilino)carbonyl]-2-piperazinecarboxylate | 1.4 mmol, 0.41 g | FC1=CC=C(NC(=O)N2CC(NCC2)C(=O)OCC)C=C1 | C14H18FN3O3
reactant | 4-but-2-ynyloxy-benzenesulfonyl chloride | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H9ClO3S
product | ethyl 1-{[4-(2-butynyloxy)phenyl]sulfonyl}-4-[(4fluoroanilino)carbonyl]-2-piperazinecarboxylate | 0.49 g, 70% | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N1C(CN(CC1)C(=O)NC1=CC=C(C=C1)F)C(=O)OCC | C24H26FN3O6S
